US05780483
Synthesis of N-(2-hydroxy-4-nitro phenyl) N'-(2-chloro phenyl) urea
The urea was prepared from 4-nitro 2-hydroxy aniline(308 mg, 2 mmol) and 2-chloro phenyl isocyanate(2 mmol) by general Method B. It was purified by dilution with methylene chloride and precipitation with hexane. Filtering afforded the title compound(0.29 g, 47%). EI-MS m/z 308(M+H)+

reactant | 4-nitro 2-hydroxy aniline | 2 mmol, 308 mg | [N+](=O)([O-])C1=CC(=C(N)C=C1)O | C6H6N2O3
reactant | 2-chloro phenyl isocyanate | 2 mmol | ClC1=C(C=CC=C1)N=C=O | C7H4ClNO
product | N-(2-hydroxy-4-nitro phenyl) N'-(2-chloro phenyl) urea | 0.29 g, 47% | OC1=C(C=CC(=C1)[N+](=O)[O-])NC(=O)NC1=C(C=CC=C1)Cl | C13H10ClN3O4
